US03948933
2-Phenyl-5,6,7,7a-tetrahydro-1-oxo-3-thioxo-1H-pyrrolo[1,2-c]imidazole-5-carboxylic acid
To a solution of 1.5 g. of 2-phenyl-5,6,7,7a-tetra-hydro-1-oxo-3-thioxo-1H-pyrrolo[1,2-c]imidazole-5-carboxylic acid ethyl ester in 10 ml. of methanol, 5 ml. of 1 N sodium hydroxide in 10 ml. of water is added. The mixture is allowed to stand for 3 hours at room temperaure, then methanol is evaporated in vacuo. The residual solution is extracted with diethyl ether, then acidified and concentrated to a small volume. After standing overnight, 0.7 g. of the titular product crystallizes out, m.p. 230°C. (methanol).

reactant | 2-phenyl-5,6,7,7a-tetra-hydro-1-oxo-3-thioxo-1H-pyrrolo[1,2-c]imidazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1CCC2N1C(N(C2=O)C2=CC=CC=C2)=S | C15H16N2O3S
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | water | O | H2O
product | 2-Phenyl-5,6,7,7a-tetrahydro-1-oxo-3-thioxo-1H-pyrrolo[1,2-c]imidazole-5-carboxylic acid | C1(=CC=CC=C1)N1C(N2C(C1=O)CCC2C(=O)O)=S | C13H12N2O3S
